US06951879B2
In analogy to example 36.1, {4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-ethyl-amine and N-Methylpropargylamine were converted to yield 2-[Ethyl-(4-{3-[4-(3-methylamino-prop-1-ynyl)-phenyl]-benzo[d]isothiazol-6-yloxy}-butyl)-amino]-ethanol as brown oil, MS: 438 (MH+).

reactant | {4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-ethyl-amine | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCCN(CC)CCO[Si](C)(C)C(C)(C)C | C27H39BrN2O2SSi
reactant | N-Methylpropargylamine | CNCC#C | C4H7N
product | 2-[Ethyl-(4-{3-[4-(3-methylamino-prop-1-ynyl)-phenyl]-benzo[d]isothiazol-6-yloxy}-butyl)-amino]-ethanol | C(C)N(CCO)CCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C#CCNC)C=C1 | C25H31N3O2S
